US05284948
Step 1: Preparation of 5-Ethyl-6-hydroxy-3-(4-methoxycarbonylbutyl)-5-phenyl-2,4(3H,5H)-pyrimidinedione
A mixture of phenobarbital (46.5 g, 0.2 mole) and tetrabutylammonium hydroxide (500 mL, 0.2 mole of 0.4M in water) in dichloromethane (500mL) was prepared and to it was added methyl 5-bromovalerate (39.0 g, 0.2 mole). The reaction mixture was stirred vigorously overnight (20 hrs). To this mixture was added saturated sodium chloride solution (100 mL), the organic layer was separated, and the aqueous solution was washed with dichloromethane (2×100 mL). The combined organic solution was washed with saturated sodium chloride solution (100 mL), dried over anhydrous MgSO4, filtered, and the solvent removed.

reactant | phenobarbital | 0.2 mole, 46.5 g | CCC1(C(=O)NC(=O)NC1=O)C=2C=CC=CC2 | C12H12N2O3
reactant | tetrabutylammonium hydroxide | 0.2 mole, 0.4M, 500 mL | [OH-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | methyl 5-bromovalerate | 0.2 mole, 39.0 g | BrCCCCC(=O)OC | C6H11BrO2
reactant | sodium chloride | 100 mL | [Cl-].[Na+]
solvent | dichloromethane | 500mL | ClCCl | CH2Cl2
product | 5-Ethyl-6-hydroxy-3-(4-methoxycarbonylbutyl)-5-phenyl-2,4(3H,5H)-pyrimidinedione | C(C)C1(C(N(C(N=C1O)=O)CCCCC(=O)OC)=O)C1=CC=CC=C1 | C18H22N2O5
